US06774132B1
Spiro[indoline-3,3′-perhydroazepin]-2-one
3-(4-(Benzylamino)-butyl)-indolin-2-one. Conc hydrochloric acid (90 mL) was added to a solution of the compound from the previous step in DMSO (38 mL) and MeOH (8 mL). After stirring for 30 min at 0° C. and 30 min at room temperature the mixture was poured onto ice followed by extractive work-up. The title compound was obtained as a crude orange oil (16.2 g).

reactant | 3-(4-(Benzylamino)-butyl)-indolin-2-one | C(C1=CC=CC=C1)NCCCCC1C(NC2=CC=CC=C12)=O | C19H22N2O
reactant | hydrochloric acid | 90 mL | Cl | ClH
solvent | DMSO | 38 mL | CS(=O)C | C2H6OS
solvent | MeOH | 8 mL | CO | CH4O
product | Spiro[indoline-3,3′-perhydroazepin]-2-one | N1CC2(CCCC1)C(NC1=CC=CC=C12)=O | C13H16N2O
